data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_701649_1,[N:1]([C:2]([O:5][O:6][H:9])=[O:8])(/[N:7]=[C:4](\[N:3]([H:11])[H:12])[H:13])[H:10]>>[N:1]1([H:10])[C:2](=[O:8])[N:7]1[C:4]([N:3]([H:11])[H:12])([O:5][O:6][H:9])[H:13],71.41326500000687
MR_140724_1,[C:1]([C:3]([N:5]([H:8])[H:9])=[O:7])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:10])([H:11])[H:12]>>[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[N:6]([C:3]([N:5]([H:8])[H:9])=[O:7])[H:10])([H:11])[H:12],61.16618999994671
MR_559798_1,[C:1]([C:2]([H:9])([H:10])[H:11])([O:4][H:7])([O:5][H:8])[N:6]=[C:3]([H:12])[H:13]>>[C:1](\[C:2]([H:9])([H:10])[H:11])([O:4][H:7])=[N:6]/[C:3]([O:5][H:8])([H:12])[H:13],56.2779649999824
MR_300945_0,[C:1](/[C:3](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])[C:5]([N:7]([H:11])[H:12])=[C:8]([H:19])[H:20])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:5]([N:7]([H:11])[H:12])[C:8]([H:19])([H:20])[C:4]1([C:2]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([H:13])([H:14])[H:15],48.66136999998673
MR_289725_2,[C:1]([C:5]([C:2]([N:4]=[C:3]([H:17])[H:18])([H:15])[H:16])([N:8]([H:14])[H:19])[H:10])([N:6]([H:12])[H:13])([O:7][H:9])[H:11]>>[C:1](/[C:5]([C:2]([N:4]([C:3]([H:17])([H:18])[H:19])[H:10])([H:15])[H:16])=[N:8]\[H:14])([N:6]([H:12])[H:13])([O:7][H:9])[H:11],64.60488999996812
MR_363651_0,[C:1](/[C:2](=[C:4](/[N:3]([H:8])[H:9])[H:10])[O:5][O:6][H:7])([H:11])([H:12])[H:13]>>[C:1]([C:2](/[C:4](=[N:3]/[H:8])[H:10])([O:5][O:6][H:9])[H:7])([H:11])([H:12])[H:13],50.90342749999749
MR_272422_1,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])(/[C:5]([C:6]([C:2]([H:11])([H:12])[H:13])=[O:8])=[N:7]/[H:10])[H:9]>>[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])([C:6]1([C:2]([H:11])([H:12])[H:13])/[C:5](=[N:7]/[H:10])[O:8]1)[H:9],69.66567749999612
MR_464888_1,[C@:1]([C@@:2]([N:4]([N:5]([H:12])[H:13])[H:9])([N:7]([H:16])[H:17])[H:11])([N:6]([H:14])[H:15])([O:8][C:3]([H:18])([H:19])[H:20])[H:10]>>[C@:1]([C@@:2]([N:7]([H:16])[H:17])([O:8][C:3]([H:18])([H:19])[H:20])[H:11])([N:4]([N:5]([H:12])[H:13])[H:9])([N:6]([H:14])[H:15])[H:10],70.49084000001727
MR_348058_2,[C:1]1([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:8])[N:4]([H:6])[N:5]1[H:7]>>[C:1](\[C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])(=[N:4]\[H:6])[N:5]([H:7])[H:8],61.13293249999501
MR_326323_2,[C:1]([N:2](/[C:3]([N:4]([H:9])[H:10])=[C:6](\[N:5]([H:11])[H:12])[H:13])[N:8]=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:3](\[N:4]([H:9])[H:10])[C:6]([N:5]([H:11])[H:12])([N:8]=[C:7]([H:17])[H:18])[H:13])([H:14])([H:15])[H:16],72.72599500000979
MR_675370_1,[C:1](/[C:2](=[C:4](/[C:6]([H:20])([H:21])[H:22])[H:12])[H:10])([C:5]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[C:8]1([H:15])[C:3]([H:11])=[C:9]1[H:16]>>[C:1]1([C:5]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[C:2]2([H:10])[C:3]([H:11])([C:4]2([C:6]([H:20])([H:21])[H:22])[H:12])[C:9]([H:16])=[C:8]1[H:15],55.89079749999684
MR_343935_0,[C:1](/[N:8]=[C:2](\[N:4]([H:9])[H:10])[O:7][C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([N:8]([C:2]([N:4]([H:9])[H:10])=[O:7])[C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15],39.4854375000044
MR_428613_2,[C:1](\[N:2]([C:4]([N:3]([C:5](=[C:7]([H:14])[H:15])[H:13])[H:10])=[O:8])[H:9])(=[N:6]/[H:12])[H:11]>>[C:1]1([N:6]([H:12])[H:13])([H:11])[N:2]([H:9])[C:4](=[O:8])[N:3]([H:10])[C:5]1=[C:7]([H:14])[H:15],65.22737000000163
MR_257180_0,[C:1]([N:2]([H:7])[H:8])([O:3][O:4][H:6])=[O:5]>>[C:1]([N:2]([H:7])[H:8])(=[O:3])[O:5][O:4][H:6],58.71580249999823
MR_445733_0,[C:1]([C:2]([C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([O:8][H:12])=[O:9])[O:10][H:11])([N:6]([H:15])[H:16])[H:14])(=[O:7])[H:13]>>[C:1]([C:2]([C:5]([C:3]([H:17])([H:18])[H:19])=[O:10])([N:6]([H:15])[H:16])[H:14])([C:4]([O:8][H:12])=[O:9])([O:7][H:11])[H:13],54.038417499965306
MR_631910_0,[C:1](/[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])=[N:7]\[H:13])([N:5]([H:11])[H:12])([O:6][H:8])[H:10]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])(/[C:4]([O:6][H:8])=[N:7]/[H:13])([N:5]([H:11])[H:12])[H:10],65.76325499996841
MR_83592_0,[C:1]([C:6]([C@:4]1([C:2]([H:11])([H:12])[H:13])[C:3](=[O:7])[C:5]1([H:14])[H:15])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:7][C:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:6]([H:16])[H:17])=[C:5]([H:14])[H:15])([H:8])([H:9])[H:10],66.52190250001482
MR_443537_1,[C:1]([C:2]([N:3]([H:9])[H:10])=[C:5]([H:13])[H:14])(=[C:4]([H:11])[H:12])[O:6][O:7][H:8]>>[C:1]([C:2](=[C:5]([H:13])[H:14])[O:6][O:7][H:8])([N:3]([H:9])[H:10])=[C:4]([H:11])[H:12],37.34127000003184
MR_571344_1,[C:1]1([O:9][H:10])([H:12])[C:2]([H:15])([H:16])[N:3]([H:11])[C:4]1([N:5]([H:13])[H:14])[C:7]([C:6](=[C:8]([H:20])[H:21])[H:17])([H:18])[H:19]>>[C:1]([C:2]([N:3]([C:6](=[C:8]([H:20])[H:21])[H:17])[H:11])([H:15])[H:16])([C:4]([N:5]([H:13])[H:14])=[C:7]([H:18])[H:19])([O:9][H:10])[H:12],62.22352749998805
MR_367395_0,[C:1]([N:2]([N:3]([O:5][H:8])[H:10])[C:4]([O:6][H:9])=[O:7])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:4](\[O:6][H:9])[O:7][N:3]([O:5][H:8])[H:10])([H:11])([H:12])[H:13],68.80474749999394
